US08466289B2
Synthesis of the Title Compound; 1-Hydroxymethyl-cyclopropanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-oxazolo[3,2-a]pyridin-8-yl]-amide (11A)
Using the same reaction conditions and workup as described for the prepaqration of Example 7A, 1-benzyloxymethyl-cyclopropanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-oxazolo[3,2-a]pyridin-8-yl]-amide (0.27 g, 0.515 mmol) was reacted with BF3.OEt2(1.94 mL, 15.45 mmol) and ethane thiol (0.3 g, 5.15 mmol). The resulting mixture was stirred at room temperature for 3 days. Purification by preparative HPLC afforded 60 mg of the product (26% yield).

reactant | 1-benzyloxymethyl-cyclopropanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-oxazolo[3,2-a]pyridin-8-yl]-amide | 0.515 mmol, 0.27 g | FC1=C(C=CC(=C1)I)NC=1C(=C2N(C(C1C)=O)CCO2)NS(=O)(=O)C2(CC2)COCC2=CC=CC=C2 | C25H25FIN3O5S
reactant | BF3.OEt2 | 15.45 mmol, 1.94 mL | B(F)(F)F.CCOCC
reactant | ethane thiol | 5.15 mmol, 0.3 g | C(C)S | C2H6S
product | 1-Hydroxymethyl-cyclopropanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-oxazolo[3,2-a]pyridin-8-yl]-amide | 60 mg, 26% yield | FC1=C(C=CC(=C1)I)NC=1C(=C2N(C(C1C)=O)CCO2)NS(=O)(=O)C2(CC2)CO | C18H19FIN3O5S
